US04150967
1 mole of 1-methylimidazole was dissolved in 400 ml of ethanol and 1.2 moles of n-octyl bromide were added. The mixture was then heated to the boiling point for 5 hours. Thereafter, ethanol and excess n-octyl bromide were removed. The residue was purified in ether. In this manner, 250 g of 1-n-octyl-3-methyl-imidazolium bromide were obtained.

reactant | 1-methylimidazole | 1 mole | CN1C=NC=C1 | C4H6N2
reactant | n-octyl bromide | 1.2 moles | C(CCCCCCC)Br | C8H17Br
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-n-octyl-3-methyl-imidazolium bromide | 250 g | [Br-].C(CCCCCCC)[N+]1=CN(C=C1)C | InChI=1S/C12H23N2.BrH/c1-3-4-5-6-7-8-9-14-11-10-13(2)12-14;/h10-12H,3-9H2,1-2H3;1H/q+1;/p-1
